US06169107A
In a solvent mixture of 20 ml of 2N hydrochloric acid and 60 ml of tetrahydrofuran was dissolved 4.00 g (12.6 mmol) of ethyl 1-methyl-4-(2-tetrahydropyranyl)oxymethyl-2-indolecarboxylate. The solution was stirred at 50° C. for an hour. The reaction mixture was poured onto ice water and the aqueous layer was extracted three times with ethyl acetate. The combined extracts were washed with saturated sodium hydrogen-carbonate solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to give 2.90 g (99%) of ethyl 4-hydroxymethyl-1-methyl-2-indolecarboxylate.

reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
reactant | ethyl 1-methyl-4-(2-tetrahydropyranyl)oxymethyl-2-indolecarboxylate | 12.6 mmol, 4.00 g | CN1C(=CC2=C(C=CC=C12)COC1OCCCC1)C(=O)OCC | C18H23NO4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | ethyl 4-hydroxymethyl-1-methyl-2-indolecarboxylate | 2.90 g, 99% | OCC1=C2C=C(N(C2=CC=C1)C)C(=O)OCC | C13H15NO3
